US08309720B2
Step B: 4-Methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carbonitrile
In a 100 ml 3-neck flask, (5-cyano-4-methyl-pyrimidin-2-yl)-[3-(1-methyl-piperidin-4-yl)-propyl]-carbamic acid ethyl ester (1.4 g, 4.05 mmol) was dissolved in MeOH (16.0 g). The resultant solution was cooled to about 0-5° C., and then a sodium hydroxide solution [prepared from NaOH (0.6 g) and water (1.2 g)] was added at about 0-5° C. The resultant mixture was stirred at 0° C., then warmed to ambient temperature over 3 h. The reaction was monitored by HPLC. The resultant mixture was concentrated by rotary evaporation at about 20-25° C. and the resultant solid was slurried in water (20 g), overnight at ambient temperature. The solid was collected by filtration, washed with water (20 g) and dried in a vacuum oven at about 70-80° C. overnight to yield the title compound.

reactant | (5-cyano-4-methyl-pyrimidin-2-yl)-[3-(1-methyl-piperidin-4-yl)-propyl]-carbamic acid ethyl ester | 4.05 mmol, 1.4 g | C(C)OC(N(CCCC1CCN(CC1)C)C1=NC=C(C(=N1)C)C#N)=O | C18H27N5O2
reactant | sodium hydroxide | 0.6 g | [OH-].[Na+]
solvent | MeOH | 16.0 g | CO | CH4O
product | 4-Methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carbonitrile | CC1=NC(=NC=C1C#N)NCCCC1CCN(CC1)C | C15H23N5
